US08609855B2
Propan-2-yl 4-amino-6-chloro-5-fluoropicolinate
Propan-2-yl 4-amino-5,6-difluoropicolinate (4.25 g, 19.7 mmol) was dissolved in hydrochloric acid (HCl, 4 M in dioxane; 65 mL) in a 100 mL Hastalloy stiffed Parr reactor. The reactor was heated to 100° C. for 2 h. Upon standing at room temperature overnight, a yellow crystalline solid formed. This solid was not soluble in EtOAc, but did dissolve upon shaking with satd aq NaHCO3 solution (500 mL) and EtOAc (300 mL). The aqueous layer was extracted with EtOAc (2×250 mL). The combined organic extracts were washed with water (5×50 mL) and then brine. The extracts were dried (MgSO4) and concentrated under vacuum to provide an off-white solid. The crude product was purified by column chromatography (120 g silica column; 0-100% hexane-EtOAc gradient) to give a white solid (2.11 g, 46%): mp 190.7-192.4° C.; 1H NMR (400 MHz, DMSO-d6) δ 7.543 (d, JF-H=5.7 Hz, 1H), 6.91 (br s, 2H, NH2), 5.09 (septet, J=6 Hz, 1H, CHMe2), 1.29 (d, J=6 Hz, 6H, CHMe2); 13C{1H} NMR (101 MHz, DMSO-d6) δ 162.8 (CO2R), 144.8 (d, JF-C=12 Hz, C2/C4), 143.4 (d, JF-C=254 Hz, C5), 142.7 (d, JF-C=4.8 Hz, C2/C4), 136.5 (d, JF-C=17 Hz, C6), 112.8 (d, JF-C=5 Hz, C3), 68.9 (CHMe2), 21.6 (Me); 19F NMR (376 MHz, DMSO-d6) δ −141.0 (d, JF-H=6 Hz). Anal. Calcd for C9H10ClFN2O2: C, 46.47; H, 4.33; N, 12.04. Found: C, 46.50; H, 4.33; N, 11.96.

reactant | Propan-2-yl 4-amino-5,6-difluoropicolinate | 19.7 mmol, 4.25 g | NC1=CC(=NC(=C1F)F)C(=O)OC(C)C | C9H10F2N2O2
reactant | NaHCO3 | 500 mL | C(=O)(O)[O-].[Na+]
reactant | hydrochloric acid | 4 M, 65 mL | Cl | ClH
solvent | EtOAc | CCOC(=O)C | C4H8O2
solvent | EtOAc | 300 mL | CCOC(=O)C | C4H8O2
product | Propan-2-yl 4-amino-6-chloro-5-fluoropicolinate | 2.11 g, 46% | NC1=CC(=NC(=C1F)Cl)C(=O)OC(C)C | C9H10ClFN2O2
